US05399578
a) N-Carboethoxy-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester
10.0 g of N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester are dissolved in 150 ml of chloroform and treated with 8.2 ml of diisopropylethylamine at 0°. 2.4 ml of ethyl chloroformate are added and the mixture is heated to reflux for 3 hours. The reaction mixture is washed with 0.1M hydrochloric acid and brine, dried and concentrated. Amorphous product. TLC (system N3) Rf : 0.45.

reactant | N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester | 10.0 g | C(C1=CC=CC=C1)OC([C@@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(C)C)=O | C26H26N2O2
reactant | diisopropylethylamine | 8.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroformate | 2.4 ml | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Carboethoxy-N-[(2'-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=O)OCC)C(C)C)=O | C29H30N2O4
